US04950669
A suspension is prepared containing 17.8 grams (0.1 mole)-β-benzoyl-propionic acid in 500 ml of anhydrous benzene; then are added in this order and at room temperature 10.5 grams triethylamine, 15 grams ethyl chlorocarbonate and 21 grams (0.2 moles) diethanolamine. The suspension is stirred for over two hours, always at room temperature, and it is then filtered to remove the triethylamine hydrochloride. The liquid is concentrated, at reduced pressure, to about half of the initial volume and it is left to rest about 12 hours at 5°-10° C. temperature. The crystallized solid is filtered, vacuum dried at reduced pressure, about 40° C., and is recrystallized from ethanol. 17.5 grams of N,N-bis(2- hydroxy-ethyl)-β-benzoyl-propionamide with m.p. 98° C. are obtained.

reactant | β-benzoyl-propionic acid | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | triethylamine | 10.5 grams | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 15 grams | C(OCC)(=O)Cl | C3H5ClO2
reactant | diethanolamine | 0.2 moles, 21 grams | N(CCO)CCO | C4H11NO2
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | N,N-bis(2- hydroxy-ethyl)-β-benzoyl-propionamide | 17.5 grams | OCCN(C(CCC(C1=CC=CC=C1)=O)=O)CCO | C14H19NO4
